US05559111
f) 3(S)-Isopropyl-5(S)-{1(S)-amino-3(S)-isopropyl-4-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one
A solution of 151 mg of 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-acetoxy-4-[4-(3-benzyloxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one in 10 ml of ethanol is hydrogenated under normal pressure and at room temperature in the presence of 70 mg of PdO for 170 hours. The reaction mixture is filtered and concentrated by evaporation, and the residue is dissolved in 10 ml of ethanol and is again hydrogenated for 24 hours in the presence of 140 mg of PdO under normal pressure and at room temperature. Filtration and concentration by evaporation yield the title compound in the form of a crude product: Rf (dichloromethane/methanol)=0.32; HPLC Rt =11.72 minutes; FAB-MS (M+H)+ =480. The compound is used in the next step without being purified.

reactant | 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-acetoxy-4-[4-(3-benzyloxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | 151 mg | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OCCCOCC1=CC=CC=C1)OCCCOC)OC(C)=O)C(C)C)N=[N+]=[N-])=O | C36H51N3O8
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3(S)-Isopropyl-5(S)-{1(S)-amino-3(S)-isopropyl-4-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](CC1=CC(=C(C=C1)OCCCO)OCCCOC)C(C)C)N)=O | C27H45NO6
